US09388189B2
(S)-2-(1-((5-(3-Fluoro-5-hydroxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(3-Fluoro-5-methoxybenzyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (3 mg, 0.01 mmol) was treated with boron tribromide (1M in dichloromethane, 148 μL, 0.15 mmol) in dichloromethane (280 μL) and then with a solution of ammonia (7N in methanol, 280 μl, 1.96 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (0% to 100% dichloromethane-ethyl acetate) to obtain 3 mg (38% yield) of the title compound.

reactant | (S)-2-(1-((5-(3-Fluoro-5-methoxybenzyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.01 mmol, 3 mg | FC=1C=C(CC2=CN(C=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)COCC[Si](C)(C)C)C=C(C1)OC | C35H40FN7O3Si
reactant | boron tribromide | 0.15 mmol, 1M, 148 μL | B(Br)(Br)Br | BBr3
reactant | ammonia | 1.96 mmol, 7N, 280 μl | N | H3N
solvent | dichloromethane | 280 μL | ClCCl | CH2Cl2
product | (S)-2-(1-((5-(3-Fluoro-5-hydroxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 3 mg, 38% yield | FC=1C=C(CC2=CNC=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)C=C(C1)O | C28H24FN7O2
